US07659268B2
To a mixture of methyl 3-amino-5-nitrobenzoate (2.5 g, 13 mmol) in 40% HBr (50 mL) was added drop-wise solution of sodium nitrite (1.1 g, 16 mmol) in water (5 mL) at 0° C. The mixture was stirred for 15 min and was then poured into a cold solution of copper (I) bromide (9.2 g, 65 mmol) in 40% HBr (50 mL). The resulting dark brown mixture was stirred for 30 min, and then was diluted with water and extracted with EtOAc (50 mL×3). The combined organic layers were washed with brine and water, dried over anhydrous Na2SO4, and concentrated under vacuum. The residue was purified by column chromatography on silica gel (5-10% ethyl acetate in petroleum ether) to afford methyl 3-bromo-5-nitrobenzoate (2.2 g, 67% yield). 1H NMR (400 MHz, CDCl3) δ 8.79 (dd, J=1.6, 2.0 Hz, 1H), 8.55 (t, J=1.6 Hz, 1H), 8.49 (t, J=1.6 Hz, 1H), 4.00 (s, 3H).

reactant | methyl 3-amino-5-nitrobenzoate | 13 mmol, 2.5 g | NC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H8N2O4
reactant | sodium nitrite | 16 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | HBr | 50 mL | Br | BrH
reactant | HBr | 50 mL | Br | BrH
solvent | water | 5 mL | O | H2O
catalyst | copper (I) bromide | 65 mmol, 9.2 g | [Cu]Br
product | methyl 3-bromo-5-nitrobenzoate | 2.2 g, 67% yield | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
